* source CMOSINV
C_C2         0 N03374  0.5pf  
M_M2         N00472 N00546 N00427 N00472 MbreakpD  
+ L=5U  
+ W=30U         
V_V1         N00546 0  
+PULSE 0 2.5V 1ns 1ns 1ns 200ns 600ns
V_V3         N03426 0  
+PULSE 0 2.5V 1ns 1ns 1ns 200ns 600ns
V_V2         N00472 0 2.5Vdc
M_M1         N00427 N00546 0 0 MbreaknD  
+ L=5U  
+ W=30U         
M_M3         N00472 N03426 N03374 0 MbreaknD  
+ L=5u  
+ W=30u         
M_M4         N03374 N03426 0 N00472 MbreakpD  
+ L=5U  
+ W=30U         
C_C1         0 N00427  0.5pf  
