* source NMOS1
V_V1         N00546 0  
+PULSE 0 2.5 1ns 200ps 200ps 20ns 60ns
V_V2         N00325 0 2.5Vdc
M_M1         N00380 N00546 0 0 MbreaknD  
+ L=1U  
+ W=1U         
C_C1         0 N00380  0.1PF  
R_R1         N00380 N00325  10k  
