* source PMOS1
V_V1         N00546 0  
+PULSE 0 2.5 1ns 200ps 200ps 20ns 60ns
V_V2         VDD 0 2.5Vdc
C_C1         0 VOUT  0.1PF  
R_R1         VOUT VDD  10k  
M_M2         VOUT N00546 0 VDD MbreakpD  
+ L=1u  
+ W=1u         
