* source PMOS2
V_V1         N00546 0  
+PULSE 0 2.5 1ns 200ps 200ps 20ns 60ns
V_V2         N00427 0 2.5Vdc
M_M2         N00427 N00546 N00325 N00427 MbreakpD  
+ L=1u  
+ W=1u         
C_C1         0 N00325  0.1PF  
R_R1         0 N00325  10k  
